US07648989B2
Preparation of 2-[5-Chloro-2-(4-methyl-piperazin-1-yl)-pyridin-4-yl]-acetamide
[5-Chloro-2-(4-methyl-piperazin-1-yl)-pyridin-4-yl]-acetic acid ethyl ester (385 mg, 1.29 mmol) is dissolved under an atmosphere of argon in dry DMF (4 ml). Formamide (195 mg, 4.33 mmol) is added, and the mixture is heated to 105° C. At this temperature, sodium methoxide (5.4 M in MeOH, 0.24 ml, 1.29 mmol) is added dropwise. After 20 minutes, TLC analysis indicated incomplete conversion, thus another addition of sodium methoxide (0.08 ml of a 5.4 M solution in MeOH) is done. After a further 10 minutes, the reaction is judged complete according to TLC. The reaction mixture is cooled to RT and diluted with CH2Cl2 (150 ml). Water is added (3 ml) until a clear solution is obtained. Sufficient Na2SO4 is added to absorb the water and the organic solvent is evaporated. The residue is purified by FCC (CH2Cl2/MeOH 95:5 to 80:20) to afford the title compound. 1H NMR (CDCl3, 400 MHz): δ 2.35 (s, 3H), 2.51 (m, 4H), 3.56 (m, 4H), 3.62 (s, 2H), 5.37 (s, broad, 1H), 5.54 (s, broad, 1H), 6.64 (s, 1H), 8.15 (s, 1H). ES+−MS: 269.2, 271.1 (Cl) [M+H]+, ES−−MS: 267.2, 269.3 (Cl) [M−H]−.

reactant | [5-Chloro-2-(4-methyl-piperazin-1-yl)-pyridin-4-yl]-acetic acid ethyl ester | 1.29 mmol, 385 mg | C(C)OC(CC1=CC(=NC=C1Cl)N1CCN(CC1)C)=O | C14H20ClN3O2
reactant | Formamide | 4.33 mmol, 195 mg | C(=O)N | CH3NO
reactant | sodium methoxide | 1.29 mmol, 5.4 M, 0.24 ml | C[O-].[Na+]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 2-[5-Chloro-2-(4-methyl-piperazin-1-yl)-pyridin-4-yl]-acetamide | ClC=1C(=CC(=NC1)N1CCN(CC1)C)CC(=O)N | C12H17ClN4O
